US06605620B1
Synthesis of 1-(tert-Butoxycarbonyl)-4-[[4-(methylthio)phenyl]amino]piperidine
1-(tert-Butoxycarbonyl)-4-piperidone (5.00 g) and 4-(methylthio)aniline (3.33 g) was treated in the same manner as described in Preparation Example 37 to give white powder of the title compound.

reactant | 1-(tert-Butoxycarbonyl)-4-piperidone | 5.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 4-(methylthio)aniline | 3.33 g | CSC1=CC=C(N)C=C1 | C7H9NS
product | 1-(tert-Butoxycarbonyl)-4-[[4-(methylthio)phenyl]amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)SC | C17H26N2O2S
